US07696347B2
1-Methoxymethyl-4-nitrobenzene
To a mixture of 4-nitrophenyl trifluoromethanesulfonate (30 mg, 0.11 mmol) and 1,4-dioxane (3 ml) were added water (0.3 ml), cesium carbonate (0.11 g, 0.34 mmol), potassium methoxymethyl trifluoroborate (17 mg, 0.11 mmol),palladium (II) acetate (1.3 mg, 0.0056 mmol) and tri-o-tolylphosphine (8.5 mg, 0.028 mmol). Then, the reaction mixture was stirred at 95° C. (external temperature) for 4 hours. After the reaction mixture was cooled at room temperature, water and heptane were added to the mixture, and the organic layer was separated. The organic layer was filtered, and the solvent was distilled off under reduced pressure. The residue was purified by NH-silica gel column chromatography (heptane:ethyl acetate=10:1) to obtain the title compound (13 mg, 0.078 mmol, 68%).

reactant | 4-nitrophenyl trifluoromethanesulfonate | 0.11 mmol, 30 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C7H4F3NO5S
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | cesium carbonate | 0.34 mmol, 0.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-o-tolylphosphine | 0.028 mmol, 8.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium (II) acetate | 0.0056 mmol, 1.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | heptane | CCCCCCC | C7H16
solvent | water | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 1-Methoxymethyl-4-nitrobenzene | 0.078 mmol, 13 mg, 68% | COCC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO3
